US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 51 using 4-amino-8-methylthiochromane-7-carboxylic acid methyl ester (2.60 g), potassium carbonate (1.80 g) and di-tert-butyldicarbonate (3.36 g), the objective 4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid methyl ester (2.73 g) was obtained as colorless crystals.

reactant | 4-amino-8-methylthiochromane-7-carboxylic acid methyl ester | 2.60 g | COC(=O)C1=CC=C2C(CCSC2=C1C)N | C12H15NO2S
reactant | potassium carbonate | 1.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyldicarbonate | 3.36 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid methyl ester | 2.73 g | COC(=O)C1=CC=C2C(CCSC2=C1C)NC(=O)OC(C)(C)C | C17H23NO4S
